US05364871
A solution of 4-acetylthiazole-2-carboxylic acid ethyl ester (1.5 g) and bromine (1.4 g) in methanol (50 ml) was stirred for 8 hours at room temperature. The solvent was removed under reduced pressure to give 4-bromoacetylthiazole-2-carboxylic acid ethyl ester. A suspension of the above residue and diaminomethylenethiourea (800 mg) in ethanol (50 ml) was refluxed for 4 hours. The resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol and diisopropyl ether afforded 4-[2-(diaminomethyleneamino)thiazol-4-yl]thiazole-2-carboxylic acid ethyl ester hydrobromide (800 mg).

reactant | 4-acetylthiazole-2-carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C=1SC=C(N1)C(C)=O | C8H9NO3S
reactant | bromine | 1.4 g | BrBr | Br2
solvent | methanol | 50 ml | CO | CH4O
product | 4-bromoacetylthiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC=C(N1)C(CBr)=O | C8H8BrNO3S
